US07737145B2
A solution of 1,1-dimethylethyl 2-[[[[4-(4-bromophenoxy)phenyl]methyl]amino]-methyl]-1-pyrrolidinecarboxylate (900 mg, 1.9 mmol) in dichloroethane (10 mL) was stirred as acetic acid (180 mg, 3 mmol), formaldehyde (37% solution in water) and sodium triacetoxyborohydride (508 mg, 2.4 mmol) were added. The reaction was stirred for 17 hours. The reaction was treated with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate (2×). The combined organic extracts were dried and concentrated. Purification by flash chromatography on silica gel using a mixture of ethyl acetate in hexane gave 0.67 g of 1,1-dimethylethyl (R)-2-[[methyl[[4-(4-bromophenoxy)phenyl]methyl]amino]methyl]-1-pyrrolidinecarboxylate.

reactant | 1,1-dimethylethyl 2-[[[[4-(4-bromophenoxy)phenyl]methyl]amino]-methyl]-1-pyrrolidinecarboxylate | 1.9 mmol, 900 mg | BrC1=CC=C(OC2=CC=C(C=C2)CNCC2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C23H29BrN2O3
reactant | acetic acid | 3 mmol, 180 mg | C(C)(=O)O | C2H4O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | 2.4 mmol, 508 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 1,1-dimethylethyl (R)-2-[[methyl[[4-(4-bromophenoxy)phenyl]methyl]amino]methyl]-1-pyrrolidinecarboxylate | 0.67 g | CN(CC1=CC=C(C=C1)OC1=CC=C(C=C1)Br)C[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C24H31BrN2O3
